US08466181B2
6-(4-(1-(4-Fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinamide
To a solution of 6-(4-(1-(4-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid (70 mg, 0.192 mmol) in DMF (2 mL) was added CDI (38 mg, 0.231 mmol) and the resulting mixture stirred at 60° C. for 1 h. After cooling to room temperature ammonium hydroxide (300 μL, 1.92 mmol) was added and reaction mixture was stirred for 16 h and then evaporated. Purification by chromatography (silica, 50 to 100% ethyl acetate in heptane) afforded the title compound (61 mg, 87%) as an off white solid. MS: m/e=364.3 [M+H]+.

reactant | 6-(4-(1-(4-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid | 0.192 mmol, 70 mg | FC1=CC=C(C=C1)N1N=NC(=C1C=1N=CN(C1)C1=NC=C(C(=O)O)C=C1)C | C18H13FN6O2
reactant | CDI | 0.231 mmol, 38 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | ammonium hydroxide | 1.92 mmol, 300 μL | [OH-].[NH4+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 6-(4-(1-(4-Fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinamide | 61 mg, 87% | FC1=CC=C(C=C1)N1N=NC(=C1C=1N=CN(C1)C1=NC=C(C(=O)N)C=C1)C | C18H14FN7O
